US08084448B2
D. [(2-Benzyloxy-4-chlorophenyl)-tert-butoxycarbonylamino]-acetic Acid Methyl Ester
To a solution of (2-benzyloxy-4-chlorophenyl)-carbamic acid tert-butyl ester (14.75 g, 44.2 mmol) in DMF (150 mL) at 0° C. is added NaH (1.94 g, 60% in mineral oil, 48.6 mmol) and the mixture is stirred at 0° C. for 10 min. To this is added methyl bromoacetate (5.04 mL, 53 mmol) and the mixture is stirred at RT for 8 h. The mixture is poured into ice/water (150 mL) and is extracted with EtOAc (700 mL). The organic phase is washed with 1N HCl (3×150 mL) and brine (150 mL) then is dried over sodium sulfate. The solvent is removed under reduced pressure and the residue purified by flash chromatography using a gradient of 5-10% EtOAc/hexane as eluent to give the title compound.

reactant | (2-benzyloxy-4-chlorophenyl)-carbamic acid tert-butyl ester | 44.2 mmol, 14.75 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)Cl)OCC1=CC=CC=C1)=O | C18H20ClNO3
reactant | NaH | 48.6 mmol, 1.94 g | [H-].[Na+]
reactant | methyl bromoacetate | 53 mmol, 5.04 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | [(2-Benzyloxy-4-chlorophenyl)-tert-butoxycarbonylamino]-acetic Acid Methyl Ester | COC(CN(C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)OCC1=CC=CC=C1)=O | C21H24ClNO5
